US05412137
A mixture of 7.3 g of 60% NaH in 190 ml of anhydrous dimethylformamide is cooled in an ice bath. To this mixture is added 22.0 g of 3-pentyloxyphenol dissolved in 50 ml of anhydrous dimethylformamide. This mixture is then stirred at room temperature for 45 minutes; 23.2 ml of ethyl 4-bromobutyrate are added; and the resultant mixture is stirred at 60° C. for 17 hours. The solvent is removed under vacuum and the residue worked up as above. The residue is flash chromatographed on normal phase silica gel using a gradient from hexane to a 4:1 ratio of hexane:ether to yield ethyl 4-(3-pentyloxyphenoxy)butyrate as a clear oil.

reactant | NaH | 7.3 g | [H-].[Na+]
reactant | 3-pentyloxyphenol | 22.0 g | C(CCCC)OC=1C=C(C=CC1)O | C11H16O2
reactant | ethyl 4-bromobutyrate | 23.2 ml | BrCCCC(=O)OCC | C6H11BrO2
solvent | dimethylformamide | 190 ml | CN(C=O)C | C3H7NO
solvent | dimethylformamide | 50 ml | CN(C=O)C | C3H7NO
product | ethyl 4-(3-pentyloxyphenoxy)butyrate | C(CCCC)OC=1C=C(OCCCC(=O)OCC)C=CC1 | C17H26O4
